US07884124B2
To a suspension containing aluminium chloride (24 g, 180 mmol) in 100 mL of CS2 was added 2-furaldehyde (9.8 mL, 156 mmol). To this mixture was added dropwise isopropyl chloride (14.3 mL, 156 mmol), and the resulting mixture stirred at rt for 24 h. The dark mixture was carefully poured into a vigorously stirred 250 g of ice, and then extracted with ether (5×100 mL). The combined organic layers were washed with water, brine, dried (Na2SO4), filtered through a pad of silica gel, and concentrated. The residue was purified by flash chromatography (0-5% EtOAc in heptane) to give 4-isopropylfuran-2-carbaldehyde as an orange oil: Yield 3.5 g (16%). 1H NMR (400 MHz, CDCl3) δ ppm 1.25 (d, J=6.88 Hz, 6H), 2.80-2.91 (m, 1H), 7.16-7.18 (m, 1H), 7.47 (q, J=0.91 Hz, 1H), 9.61 (d, J=0.59 Hz, 1H).

reactant | aluminium chloride | 180 mmol, 24 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-furaldehyde | 156 mmol, 9.8 mL | O1C(=CC=C1)C=O | C5H4O2
reactant | isopropyl chloride | 156 mmol, 14.3 mL | C(C)(C)Cl | C3H7Cl
solvent | CS2 | 100 mL | C(=S)=S | CS2
product | 4-isopropylfuran-2-carbaldehyde | C(C)(C)C=1C=C(OC1)C=O | C8H10O2
